US07560474B2
3-bromoacetylpyridine hydrobromide
To 10 g (82.5 mmol) of 3-acetylpyridine was added 30 ml of 48% hydrobromic acid. The reaction mixture was heated to 70° C., and 4.2 ml of bromine was added dropwise with stirring. After completed addition of bromine, the reaction mixture was stirred further for 15 minutes at the same temperature and cooled on ice. A crystalline compound formed was filtered off and thoroughly washed with acetone. This yields 21 g (90%) of 3-bromoacetylpyridine hydrobromide, melting point 195-200° C.

reactant | 3-acetylpyridine | 82.5 mmol, 10 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | bromine | 4.2 ml | BrBr | Br2
solvent | hydrobromic acid | 30 ml | Br | BrH
product | 3-bromoacetylpyridine hydrobromide | Br.BrCC(=O)C=1C=NC=CC1 | InChI=1S/C7H6BrNO.BrH/c8-4-7(10)6-2-1-3-9-5-6;/h1-3,5H,4H2;1H
